Conversor Buck
V0 1 0 DC 12
L1 1 2 10E-3
$TRANS 2 0 3 0 1E9 1E-9 0
$DIODO 2 4 2 4 1E9 1E-9 0
C1 4 0 100E-6
RL 4 0 1E3
VPWM 3 0 PULSE 1 -1 0 1E-4 1E-4 0.5E-3 1E-3 1000
.TRAN 1 1E-5 TRAP 1
